US07091222B2
2-Methyl-4-[2-methyl-1-(2-phenoxy-ethyl)-1H-imidazol-4-ylethynyl]-pyridine
The title compound, MS: m/e=318.1 (M+H+), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2-phenoxyethyl bromide.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 2-phenoxyethyl bromide | O(C1=CC=CC=C1)CCBr | C8H9BrO
product | 2-Methyl-4-[2-methyl-1-(2-phenoxy-ethyl)-1H-imidazol-4-ylethynyl]-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(N(C1)CCOC1=CC=CC=C1)C | C20H19N3O
